US06284756B1
Preparation of 6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]-2-[4-[2-methoxy-2-oxoethoxy]phenyl]benzo[b]thiophene
6-Benzyloxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl 3-methoxy-4-(1-pyrrolidinylmethyl)phenyl ketone (2.75 g, 5.0 mmol) in THF (25 mL) was treated with lithium aluminum hydride (420 mg) at 0° C. for 2 h, then quenched with water (1 mL) and sodium hydroxide (1.0 M, 3 mL). Stirring was continued for 45 min. The reaction mixture was diluted with brine (100 mL) and extracted with dichloromethane (100 mL×3). The combined organic layers were dried with sodium sulfate and concentrated in vacuo to give a white foam-like material. This material was dissolved in dichloromethane (50 mL), treated with triethylsilane (6.0 mL) and trifluroacetic acid (5.0 mL) at 0° C. for 2 h, and concentrated under reduced pressure. The residue was extracted with dichloromethane (100 mL×3) which was washed with saturated aqueous sodium bicarbonate (100 mL). The combined organic layers were dried with sodium sulfate and concentrated. Chromatography with Et3N:MeOH:EtOAc (5:5:90) afforded the product as a white solid (2.1 g, 78%).

reactant | 6-Benzyloxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl 3-methoxy-4-(1-pyrrolidinylmethyl)phenyl ketone | 5.0 mmol, 2.75 g | COC=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)O)C=C(C=C2)OCC2=CC=CC=C2 | C34H31NO4S
reactant | lithium aluminum hydride | 420 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | triethylsilane | 6.0 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]-2-[4-[2-methoxy-2-oxoethoxy]phenyl]benzo[b]thiophene | 2.1 g, 78% | OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)OCC(=O)OC)C1 | C30H31NO5S
